US09326973B2
A solution of diacetoxyrhodium (0.14 g, 0.317 mmol) and 8-methylene-1,4-dioxaspiro[4.5]decane (1.5 g, 9.73 mmol) in DCM (20 mL) was heated to reflux, and a solution of ethyl 2-diazoacetate (2.018 mL, 19.45 mmol) in DCM (6 mL) was added to it via syringe pump at 3.0 mL/h. The reaction mixture was stirred for 2 h after the completion of the addition, cooled to rt and concentrated. The residue was purified by silica gel chromatography (EtOAc/hexane) to afford ethyl (1S)-6-oxospiro[2.5]octane-1-carboxylate (1.9 g). 1H NMR (400 MHz, CDCl3) δ ppm 4.08-4.18 (2H, m), 3.94-3.99 (4H, m), 1.83 (4H, m), 1.59-1.67 (2H, m), 1.49-1.58 (2H, m), 1.35-1.46 (1H, m), 1.23-1.30 (3H, m), 1.15 (1H, t, J=4.89 Hz), 0.90 (1H, dd, J=7.91, 4.39 Hz).

reactant | 8-methylene-1,4-dioxaspiro[4.5]decane | 9.73 mmol, 1.5 g | C=C1CCC2(OCCO2)CC1 | C9H14O2
reactant | ethyl 2-diazoacetate | 19.45 mmol, 2.018 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | diacetoxyrhodium | 0.317 mmol, 0.14 g | C(C)(=O)O[Rh]OC(C)=O
product | ethyl (1S)-6-oxospiro[2.5]octane-1-carboxylate | 1.9 g | O=C1CCC2(C[C@@H]2C(=O)OCC)CC1 | C11H16O3
